US05310620
122.2 g (731 mmols) of p-nitrobenzoic acid, 11.3 g of dimethylsulfoxide, 2.0 g of a 5% platinum-supported catalyst, and 260 g of methanol were charged into a one liter autoclave, followed by filling hydrogen at a pressure of about 4 kg/cm2 and continuing agitation at room temperature until an equivalent of hydrogen was reacted with p-nitrobenzoic acid. After removal of the catalyst, 120.0 g (677 mmols) of 4-diethylaminobenzaldehyde, 30.0 g of acetic acid and 100 g of methanol were added to the resultant residue, followed by agitation at room temperature for 5 hours. After removal of the resultant crystals by filtration, they were washed with methanol to obtain yellow crystals and dried to isolate 187.6 g (yield 88.7%) of α-p-(diethylamino)phenyl]-N-(4-carboxyphenyl)nitrone with a purity of 96%. The thus obtained α-[p-(diethylamino)-phenyl]-N-(4-carboxyphenyl)nitrone had the following results with respect to mass spectra (MS), NMR spectra (NMR), IR spectra (IR) and elementary analysis.

reactant | p-nitrobenzoic acid | 731 mmols, 122.2 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | dimethylsulfoxide | 11.3 g | CS(=O)C | C2H6OS
reactant | hydrogen | [H][H] | H2
reactant | 4-diethylaminobenzaldehyde | 677 mmols, 120.0 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
catalyst | platinum | [Pt] | Pt
solvent | methanol | 100 g | CO | CH4O
solvent | acetic acid | 30.0 g | C(C)(=O)O | C2H4O2
solvent | methanol | 260 g | CO | CH4O
product | N-(4-carboxyphenyl)nitrone | C(=O)(O)C1=CC=C(C=C1)[N+](=C)[O-] | C8H7NO3
